US05135953
A mixture containing 5.0 grams of 1-(2-chlorobenzoyl)-3-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-S-methylisothiourea prepared in Part A, 25 milliliters of tetrahydrofuran, 10 milliliters of ethanol and 50 milliliters of a 40% aqueous dimethylamine solution was refluxed in a nitrogen atmosphere for 5 hours. An additional 25 milliliters of 40% aqueous dimethylamine solution was added and reflux was continued for an additional 16 hours. After cooling to room temperature, the mixture was poured into 200 milliliters of water. This aqueous mixture was extracted twice with methylene chloride and twice with ethyl acetate. The combined extracts were dried over anhydrous sodium sulfate. Removal of the solvents afforded 3.97 grams of a crude material. Chromatography of the crude material on silica gel using 9:1 ethyl acetate:methanol for elution afforded 1.87 grams of 2-(2-chlorobenzoyl)-3-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-1, 1-dimethylguanidine as an amphomorous solid having a melting point of 85° C.-97° C. Elemental analysis of the amphomorous solid indicated the following:

reactant | 1-(2-chlorobenzoyl)-3-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-S-methylisothiourea | 5.0 grams | ClC1=C(C(=O)NC(SC)=NC2=C(C(=C(C(=C2)C)OC2=CC=C(C3=CC=CC=C23)Cl)Cl)C)C=CC=C1 | C27H21Cl3N2O2S
reactant | tetrahydrofuran | 25 milliliters | O1CCCC1 | C4H8O
reactant | ethanol | 10 milliliters | C(C)O | C2H6O
reactant | dimethylamine | CNC | C2H7N
reactant | dimethylamine | 25 milliliters | CNC | C2H7N
solvent | water | 200 milliliters | O | H2O
product | 2-(2-chlorobenzoyl)-3-[3-chloro-4-(4-chloro-1-naphthoxy)-2,5-dimethylphenyl]-1, 1-dimethylguanidine | 1.87 grams | ClC1=C(C(=O)N=C(N(C)C)NC2=C(C(=C(C(=C2)C)OC2=CC=C(C3=CC=CC=C23)Cl)Cl)C)C=CC=C1 | C28H24Cl3N3O2
